US07319170B2
Step A: Preparation of 3-hydroxybenzenesulfonamide
To a solution of 3-aminobenzenesulfonamide (2.35 g, 13.6 mmol) in 30% sulfuric acid (18 mL) stirred in a 0° C. ice-water bath was added dropwise a solution of sodium nitrite (1.22 g, 17.7 mmol) in water (10 mL). The resulting reaction solution continued to stir in an ice-water bath for 30 min. The solution was then stirred in a 100° C. oil bath for 30 min. After cooling to room temperature, the reaction solution was partitioned between ethyl acetate and brine. After shaking, the aqueous phase was extracted with ethyl acetate. The combined ethyl acetate phases were dried over sodium sulfate, filtered, and concentrated to a yellow solid (2.11 g, 89% yield).

reactant | 3-aminobenzenesulfonamide | 13.6 mmol, 2.35 g | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
reactant | sodium nitrite | 17.7 mmol, 1.22 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 18 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 mL | O | H2O
product | 3-hydroxybenzenesulfonamide | 2.11 g, 89% yield | OC=1C=C(C=CC1)S(=O)(=O)N | C6H7NO3S
